US03996233
b. 6-[Ethyl(phenylmethyl)amino]-2-methyl-4-(4-methyl-1piperazinyl)-5-nitropyridine-3-carboxylic acid, ethyl ester
37.8 g. of 4-chloro-6-[ethyl(phenylmethyl)amino]-2-methyl-5-nitro-3-pyridinecarboxylic acid ethyl ester (0.1 Mol.), 12 g. of N-methylpiperazine (0.12 Mol.) and 15 g. of triethylamine (0.15 Mol.) are refluxed in 200 ml. of ethanol for three hours. After this time, the solvent is distilled off, the residue is dissolved in 100 ml. of water, made alkaline with potassium hydroxide and extracted three times with 100 ml. portions of ethyl acetate. The extract is dried with calcium chloride, the solvent distilled off and the residual 6-[ethyl(phenylmethyl)amino]-2methyl-4-(4-methyl-1-piperazinyl)-5-nitropyridine-3-carboxylic acid, ethyl ester is used without further purification, yield of crude product: 40 g. (90%).

reactant | 4-chloro-6-[ethyl(phenylmethyl)amino]-2-methyl-5-nitro-3-pyridinecarboxylic acid ethyl ester | 0.1 Mol | C(C)OC(=O)C=1C(=NC(=C(C1Cl)[N+](=O)[O-])N(CC1=CC=CC=C1)CC)C | C18H20ClN3O4
reactant | N-methylpiperazine | 0.12 Mol | CN1CCNCC1 | C5H12N2
reactant | triethylamine | 0.15 Mol | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 6-[Ethyl(phenylmethyl)amino]-2-methyl-4-(4-methyl-1piperazinyl)-5-nitropyridine-3-carboxylic acid, ethyl ester | C(C)N(C1=C(C(=C(C(=N1)C)C(=O)OCC)N1CCN(CC1)C)[N+](=O)[O-])CC1=CC=CC=C1 | C23H31N5O4
